US05308857
A solution of hydrogen chloride in methanol (0.19 g/ml, 3 ml) was added slowly to a suspension of 2-(diaminomethyleneamino)-4-(5-guanidinomethylfuran-2-yl)thiazole (500 mg) in methanol (10 ml) with cooling on an ice-water bath. The mixture was stirred with cooling on an ice-water bath for 2 hours. The mixture was diluted with diisopropyl ether (20 ml) and the resulting precipitate was collected by filtration. Recrystallization from a mixture of methanol, tetrahydrofuran and diisopropyl ether afforded 2-(diaminomethyleneamino)-4-(5-guanidinomethylfuran-2-yl)thiazole dihydrochloride (340 mg).

reactant | hydrogen chloride | Cl | ClH
reactant | 2-(diaminomethyleneamino)-4-(5-guanidinomethylfuran-2-yl)thiazole | 500 mg | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=N)N | C10H13N7OS
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | diisopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
product | 2-(diaminomethyleneamino)-4-(5-guanidinomethylfuran-2-yl)thiazole dihydrochloride | 340 mg | Cl.Cl.NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=N)N | InChI=1S/C10H13N7OS.2ClH/c11-8(12)15-3-5-1-2-7(18-5)6-4-19-10(16-6)17-9(13)14;;/h1-2,4H,3H2,(H4,11,12,15)(H4,13,14,16,17);2*1H
